US08791123B2
Ethyl 5-((2R,4R)-4-(tert-butyldimethyl silyloxy)-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (205 mg, 0.422 mmol) was suspended in EtOH (2.0 mL) and 1M LiOH (0.845 ml, 0.845 mmol) was added. The mixture was heated at reflux for 4 hours and another portion of 1M LiOH (0.845 ml, 0.845 mmol) was added. The mixture was heated at reflux overnight, cooled to ambient temperature and concentrated. The residue was diluted in water and the mixture was treated with 2N HCl to achieve pH 1. The mixture was extracted with DCM and EtOAc and the combined extracts were dried with MgSO4, filtered and concentrated to afford 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (124 mg, 86%) as a light orange solid.

reactant | Ethyl 5-((2R,4R)-4-(tert-butyldimethyl silyloxy)-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.422 mmol, 205 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H](N(C1)C1=NC=2N(C=C1)N=CC2C(=O)OCC)C2=CC(=CC=C2)F | C25H33FN4O3Si
reactant | LiOH | 0.845 mmol, 1M, 0.845 ml | [Li+].[OH-]
reactant | LiOH | 0.845 mmol, 1M, 0.845 ml | [Li+].[OH-]
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 124 mg, 86% | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H15FN4O3
